US04892946
N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-2-ethoxyaminocarbonylbenzenesulfonamide
To 2.9 g of trimethylaluminum in 100 ml of methylene chloride is added 2.0 g of ethoxyamine hydrochloride with stirring at ambient temperature. To this mixture is added 3.0 g of N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide and the solution is refluxed for 18 hours. The reaction mixture is treated with aqueous hydrochloric acid and the resulting precipitated product is purified by chromatography.

reactant | trimethylaluminum | 2.9 g | C[Al](C)C
reactant | ethoxyamine hydrochloride | 2.0 g | Cl.C(C)ON
reactant | N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide | 3.0 g | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC | C15H16N4O5S
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-2-ethoxyaminocarbonylbenzenesulfonamide | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)NOCC | C16H19N5O5S
